US05608056
To a solution of (2S,4R)-1-benzyloxycarbonyl-4-hydroxy-2-[(Z)-2-(pyridin-3-yl)vinyl]pyrrolidine (5.2 g) in a mixture of ethyl acetate (50 ml) and triethylamine (2.90 ml) was added dropwise methanesulfonyl chloride (1.24 ml) under ice-cooling with stirring and the mixture was stirred at the same temperature for 1 hour. To the reaction mixture were added ethyl acetate (50 ml) and water (30 ml). The organic layer was washed successively with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (150 g) eluting with a mixture of n-hexane and ethyl acetate (1:2, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-1-benzyloxycarbonyl-4-methanesulfonyloxy-2-[(Z)-2-(pyridin-3-yl)vinyl]pyrrolidine (4.14 g).

reactant | (2S,4R)-1-benzyloxycarbonyl-4-hydroxy-2-[(Z)-2-(pyridin-3-yl)vinyl]pyrrolidine | 5.2 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O)\C=C/C=1C=NC=CC1 | C19H20N2O3
reactant | methanesulfonyl chloride | 1.24 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 30 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 2.90 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-1-benzyloxycarbonyl-4-methanesulfonyloxy-2-[(Z)-2-(pyridin-3-yl)vinyl]pyrrolidine | 4.14 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)\C=C/C=1C=NC=CC1 | C20H22N2O5S
